US05091432
0.500 g (4.76 mmol) of 2-(2-aminoethoxy)ethanol was heated with 0.250 g (1.06 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester (AIT-0027) in a 10 ml round bottom flask at 120° C. for one hour. The solution was treated with 8 ml of acetonitrile and stirred vigorously for 20 minutes. The white precipitate was obtained by filtration and was washed with acetonitrile and then with ether. Upon drying, 265 mg of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[2-(2-hydroxyethoxy)ethyl]propanamide (AIT-047) as a white solid was obtained. Yield: 85%.

reactant | 2-(2-aminoethoxy)ethanol | 4.76 mmol, 0.500 g | NCCOCCO | C4H11NO2
reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester | 1.06 mmol, 0.250 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OCC | C10H12N4O3
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[2-(2-hydroxyethoxy)ethyl]propanamide | 265 mg, Yield: 85% | O=C1C=2N=CN(C2N=CN1)CCC(=O)NCCOCCO | C12H17N5O4
